US04236005
Ethyl 4-phenylimidazolo[1,5-a]pyrimidine-8-carboxylate
A mixture of 1.55 g. of ethyl 5-aminoimidazole-4-carboxylate and 1.75 g. of 3-dimethylaminoacrylophenone in 25 ml. glacial acetic acid is refluxed for 6 hours and when cooled no precipitate formed. The reaction is evaporated to dryness and dissolved in methylene chloride. After being washed with a saturated sodium bicarbonate solution and dried with anhydrous sodium sulfate, the solution was passed through a short column of hydrous magnesium silicate. Hexane addition to this solution gave the desired product, m.p. 200°-204° C.

reactant | ethyl 5-aminoimidazole-4-carboxylate | NC1=C(N=CN1)C(=O)OCC | C6H9N3O2
reactant | 3-dimethylaminoacrylophenone | CN(C=CC(=O)C1=CC=CC=C1)C | C11H13NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Ethyl 4-phenylimidazolo[1,5-a]pyrimidine-8-carboxylate | C1(=CC=CC=C1)C1=CC=NC=2N1C=NC2C(=O)OCC | C15H13N3O2
